US08378092B2
32.1) 2-(3-Bromo-2-methyl-phenyl)-pyridine (Intermediate 101)
A solution of i-PrMgCl (27.49 mL, 2M in THF, 55 mmol.) was added dropwise to commercially available 1,3-dibromo-2-methyl-benzene (12.5 g, 50 mmol) at RT under argon and then heated at 65° C. for 1.5 h. The mixture was added via syringe to a suspension of dry ZnCl2 (6.83 g, 50 mmol.) in dry THF (20 ml) and cooled to 0° C. under argon. The resulting suspension was stirred at RT for 30 min. Then 2-bromo-pyridine (4.78 ml, 50 mmol.) and PdCl2*dppf (2.03 g) were added and the mixture was refluxed for 2 h. The reaction mixture was then quenched by the addition of a 5% solution of citric acid (200 ml) and extracted with ethyl acetate (2×250 ml). The combined organic layers were consecutively washed with a 5% solution of citric acid (150 ml) and brine (150 ml), dried over Na2SO4, filtered and evaporated under reduced pressure. The crude material was chromatographed on silica gel. Yield: 7.7 g, 78%.

reactant | i-PrMgCl | 55 mmol, 2M, 27.49 mL | C(C)(C)[Mg]Cl
reactant | 1,3-dibromo-2-methyl-benzene | 50 mmol, 12.5 g | BrC1=C(C(=CC=C1)Br)C | C7H6Br2
reactant | 2-bromo-pyridine | 50 mmol, 4.78 ml | BrC1=NC=CC=C1 | C5H4BrN
solvent | THF | 20 ml | C1CCOC1 | C4H8O
catalyst | ZnCl2 | 50 mmol, 6.83 g | [Cl-].[Cl-].[Zn+2]
catalyst | PdCl2 | 2.03 g | Cl[Pd]Cl
product | 2-(3-Bromo-2-methyl-phenyl)-pyridine | BrC=1C(=C(C=CC1)C1=NC=CC=C1)C | C12H10BrN
